US07220768B2
1-[4-(4-benzylisoxazol-3-yl)phenyl]-3-[1-(4-fluorophenyl)ethyl]thiourea
A solution of 4-(4-benzyl-isoxazol-3-yl)-phenylamine and 4-fluoro-α-methyl-benzyl isothiocyanate in dimethylformamide (5 mL) is stirred for 12 hours at room temperature. The reaction mixture is then partitioned between ethyl acetate and water. The organic layer is washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 1.4 g crude product as a yellow solid. The latter is recrystallized from ethyl acetate/hexane to give 0.9 g product as a yellow solid. MS: m/z 433 (M+H)+.

reactant | 4-(4-benzyl-isoxazol-3-yl)-phenylamine | C(C1=CC=CC=C1)C=1C(=NOC1)C1=CC=C(C=C1)N | C16H14N2O
reactant | 4-fluoro-α-methyl-benzyl isothiocyanate | FC1=CC=C(C(C)N=C=S)C=C1 | C9H8FNS
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-[4-(4-benzylisoxazol-3-yl)phenyl]-3-[1-(4-fluorophenyl)ethyl]thiourea | 0.9 g | C(C1=CC=CC=C1)C=1C(=NOC1)C1=CC=C(C=C1)NC(=S)NC(C)C1=CC=C(C=C1)F | C25H22FN3OS
